US08685969B2
1. 4,7-Dibromo-1H-indole
To a solution of 1,4-dibromo-2-nitrobenzene (18 g, 64.1 mmol) in THF (200 mL) at −40° C. (dry ice-acetonitrile) was added slowly a solution of vinylmagnesium bromide (1.0 M in THF, 199 mL, 199 mmol). The resulting mixture was stirred at −40° C. for 1.5 h, then was then treated with saturated aqueous NH4Cl (500 mL) and stirred at room temperature for 1 h. HCl (1M) was added to adjust the pH to 7. EtOAc was added and the organic phase was separated, washed with brine, dried and concentrated. The residue was subjected to column chromatography on silica gel (330 g), eluting with EtOAc-hexane (5:95) to provide a light yellow oil which solidified on standing under vacuum. The desired product was obtained as a solid (8.35 g, 47% yield. LCMS showed one major peak with no ionization.

reactant | 1,4-dibromo-2-nitrobenzene | 64.1 mmol, 18 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | dry ice acetonitrile | C(=O)=O.C(C)#N
reactant | vinylmagnesium bromide | 199 mmol, 1.0 M, 199 mL | C(=C)[Mg]Br
reactant | NH4Cl | 500 mL | [NH4+].[Cl-]
reactant | HCl | 1M | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4,7-Dibromo-1H-indole | 47% yield | BrC1=C2C=CNC2=C(C=C1)Br | C8H5Br2N
